US07846959B2
A solution of 3-chloropropyl {6-[1-hydroxy-3-oxo-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}acetate (0.25 g, 0.51 mmol) and 1-methyl-piperazine (0.46 mL, 5.10 mmol) in acetonitrile (5.0 mL) was heated to 80° C. for 2 hours. The reaction mixture was cooled to room temperature and the solvent was evaporated. The resulting crude product was purified by reverse phase preparative HPLC (CH3CN/25 mM aqueous ammonium acetate). The fractions were collected, and the solvent was concentrated. The aqueous residue was partitioned with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, and dried over anhydrous sodium sulfate. Filtration and concentration gave a pale yellow residue, which was freeze-dried from a mixture of acetonitrile-water (1:1, 3.0 mL) to give 3-(4-methylpiperazin-1-yl)propyl {6-[1-hydroxy-3-oxo-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}acetate (0.12 g, 43%). 1H NMR (400 MHz, DMSO-d6): 11.50 (br.s, 1H), 7.70 (d, 1H), 7.49 (m, 3H), 7.23 (t, 1H), 7.15 (m, 6H), 6.84 (d, 1H), 4.49 (d, 1H), 4.16 (t, 4H), 4.10 (d, 1H), 3.34 (s, 6H), 2.36 (m, 3H), 2.18 (s, 3H) open, 2.16 (s, 3H) closed, 1.78 (m, 1H); MS (EI) for C31H34N6O4: 555 (MH+).

reactant | 3-chloropropyl {6-[1-hydroxy-3-oxo-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}acetate | 0.51 mmol, 0.25 g | OC1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)C=1C=CC2=C(NC(=N2)CC(=O)OCCCCl)C1 | C27H24ClN3O4
reactant | 1-methyl-piperazine | 5.10 mmol, 0.46 mL | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 3-(4-methylpiperazin-1-yl)propyl {6-[1-hydroxy-3-oxo-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}acetate | 0.12 g, 43% | OC1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)C=1C=CC2=C(NC(=N2)CC(=O)OCCCN2CCN(CC2)C)C1 | C32H35N5O4
